### PR TITLE
Port parts of EasyCrypt extraction to Rocq

### PR DESCRIPTION
**Pull request by henridoh**
# Description

This PR adds two new passes that perform some of the trusted transformations of the EasyCrypt extraction: simplifying Jasmin's while-loops to regular ones and removing modifications of for-loops' index variables.

- [ ] Add a changelog entry in `changes` if the PR is a user-visible change
- [ ] Add one or several tests to `compiler/tests` if it makes sense, especially if it is a bug fix
- [ ] Update the documentation if needed
- [x] Add your name to `AUTHORS`

### CODE REVIEW

**Comment by eponier** [comment]
Hi Henri, thanks for your contribution! Is there any link with https://github.com/jasmin-lang/jasmin/pull/1531, or it this independent work?

**Comment by henridoh** [comment]
This is independent, I wasn't aware of #1531 . I discussed this with Benjamin in Eindhoven though I see that #1531 implements my passes too so maybe we should close this in favor of #1531.

File: compiler/src/toEC.ml [hunk 1]
```diff
@@ -1600,6 +1595,7 @@ module type EcLeakage = sig
   val ec_leaks_es: Env.t -> exprs -> ec_instr list
   val ec_leaks_opn: Env.t -> exprs -> ec_instr list
   val ec_leaking_if: Env.t -> expr -> (Env.t -> ec_stmt) -> (Env.t -> ec_stmt) -> ec_stmt
+  (* TODO: adapt `ec_leaking_while` now that toec_while simplifies while loops *)
```
Comment (bgregoir) [inline compiler/src/toEC.ml:1598]: Can you doit ?

File: proofs/compiler/toec_for.v [hunk 2]
```diff
@@ -0,0 +1,79 @@
...
+  mapM (toec_for_i V).
+
+Section PROGT.
+Context {pT : progT}.
+
+Definition toec_for_fun (f : fundef) : cexec fundef :=
+  Let b := toec_for_c (vars_fd f) (f_body f) in
+  ok (with_body f b).
+
+Definition toec_for_prog (p : prog) : cexec prog :=
```
Comment (bgregoir) [inline proofs/compiler/toec_for.v:68]: This is a map_prog

File: proofs/compiler/toec_for_proof.v [hunk 3]
```diff
@@ -0,0 +1,479 @@
...
+Lemma toec_for_get_fundef fn fd :
+  get_fundef (p_funcs p) fn = Some fd ->
+  exists2 fd',
+    get_fundef (p_funcs p') fn = Some fd'
+    & toec_for_fun fresh_var_ident fd = ok fd'.
+Proof using Hp.
+  move: Hp.
+  rewrite /toec_for_prog.
+  t_xrbindP => p'_funcs Hp'_funcs <- /=.
+  move: p'_funcs Hp'_funcs.
```
Comment (bgregoir) [inline proofs/compiler/toec_for_proof.v:82]: I think this proof can be simplified. We have lemmas on map_prog/ map_cfprog (maybe get_map_prog)

File: proofs/compiler/toec_for_proof.v [hunk 4]
```diff
@@ -0,0 +1,479 @@
...
+  move: Hp'fdef.
+  rewrite /add_finfo /add_funname /=.
+  case Hp'_fundef: toec_for_fun; last done.
+  move=> [=] ?. subst.
+  case Hfn: (fn == p_fun_name).
+  - move=>[] <-. by eexists.
+  - by apply IH.
+Qed.
+
+Lemma toec_for_get_fundef_none fn :
```
Comment (bgregoir) [inline proofs/compiler/toec_for_proof.v:100]: In fact if you use get_map_prog this lemma and the previous one are not needed anymore

File: proofs/compiler/toec_for_proof.v [hunk 5]
```diff
@@ -0,0 +1,479 @@
...
+Qed.
+
+Lemma toec_for_sem_pre fn fsi fs :
+  fsi = fs->
+  sem_pre p' fn fsi = ok tt ->
+  sem_pre p fn fs = ok tt.
+Proof using Hp.
+  move=> <- <-.
+  rewrite /sem_pre /=.
+  case H: (get_fundef (p_funcs p) fn).
```
Comment (bgregoir) [inline proofs/compiler/toec_for_proof.v:130]: And this proof become simpler, I think. No need to do a case anymore

File: proofs/compiler/toec_for_proof.v [hunk 6]
```diff
@@ -0,0 +1,479 @@
...
+        rewrite Vm.setP_eq Hty.
+        by apply vm_truncate_val_get.
+      + move/eqP: h => h.
+        rewrite -(vrvP Hwrite).
+        apply Hvm. clear -h Hel; SvD.fsetdec.
+        rewrite vrv_var. clear -h; SvD.fsetdec.
+  }
+Qed.
+
+Lemma subset_vars_c_cons i c V
```
Comment (bgregoir) [inline proofs/compiler/toec_for_proof.v:240]: I think, all the remaining part of the proof can be really simplified. Explaining it is long. Maybe the best will be to discuss of it.

File: proofs/lang/it_sems_core.v [hunk 7]
```diff
@@ -256,6 +256,63 @@ Proof.
   apply eutt_eq_bind => {}s /= ; rewrite bind_ret_l !bind_ret_r tau_eutt; reflexivity.
 Qed.
 
+Lemma iter_rotate {A : Type}
```
Comment (bgregoir) [inline proofs/lang/it_sems_core.v:259]: This is very nice.

**Review by bgregoir — COMMENTED** [review]
Hi Henri, thank you very much for this work. I have done small comments but I think the best will be to discuss of this. I think maybe part of the proof can be simplified.
